US06897231B2
B. 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-3-(3-piperidylpropoxy)benzene
Triphenylphosphine (0.694 g, 2.65 mmol), tetrahydrofuran (2.12 mL), 3-piperidylpropanol (0.379 mL, 2.65 mmol) and diethylazodicarboxylate (0.418 mL, 2.65 mmol) were added to 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol (0.400 g, 0.662 mmol). The mixture was stirred at ambient temperature for 24 h and poured into aqueous 6 N hydrochloric acid (25 mL). After stirring at ambient temperature for 4 h, the mixture was extracted with ether (3×). The aqueous fraction was added to aqueous 6 N sodium hydroxide (25 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica pretreated with 2% triethylamine/ethyl acetate followed by 0-20% methanol/ethyl acetate elution. The desired fractions were concentrated, dissolved in ethyl acetate, washed with aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated to give the title compound (0.0847 g, 32% yield). 1H NMR (CD3OD) δ 8.71 (m, 1H), 8.34 (s, 1H), 8.10 (dd, 1H), 7.67 (dd, 1H), 7.60 (dt, 1H), 7.53 (m, 1H), 7.45 (t, 1H), 7.01 (m, 1H), 4.14 (t, 2H), 2.61 (m, 2H), 2.53 (s, 4H), 2.05 (m, 2H), 1.65 (m, 4H), 1.50 (m, 2H). ES-MS (m/z) 403 [M+1]+.

reactant | Triphenylphosphine | 2.65 mmol, 0.694 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-piperidylpropanol | 2.65 mmol, 0.379 mL | N1CC(CCC1)C(CC)O | C8H17NO
reactant | diethylazodicarboxylate | 2.65 mmol, 0.418 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol | 0.662 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)O | C39H33N5O2
reactant | hydrochloric acid | 6 N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 2.12 mL | O1CCCC1 | C4H8O
product | 1-(5-(1H-1,2,4-Triazol-5-yl)(1H-indazol-3-yl))-3-(3-piperidylpropoxy)benzene | 0.0847 g, 32% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCCC1CNCCC1 | C23H26N6O
